US07795282B2
Step A: tert-butyl 3-(3-(benzoylcarbamothioyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate:
To a solution of tert-butyl 3-(5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate (1.60 g, 3.69 mmol) in THF (37 mL) was added benzoyl isothiocyanate (0.595 mL, 4.43 mmol). After heating to reflux for 5 hours and to 60° C. for 16 hours, the reaction mixture was concentrated under reduced pressure. The residue was chromatographed (30% ethyl acetate in hexanes) to provide the product (1.84 g, 84%) as an orange-yellow foam.

reactant | tert-butyl 3-(5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate | 3.69 mmol, 1.60 g | FC1=C(C=C(C=C1)F)C1=NNC(S1)(C1=CC=CC=C1)CCCNC(OC(C)(C)C)=O | C22H25F2N3O2S
reactant | benzoyl isothiocyanate | 4.43 mmol, 0.595 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | THF | 37 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(3-(benzoylcarbamothioyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate | 1.84 g, 84% | C(C1=CC=CC=C1)(=O)NC(=S)N1C(SC(=N1)C1=C(C=CC(=C1)F)F)(C1=CC=CC=C1)CCCNC(OC(C)(C)C)=O | C30H30F2N4O3S2
